US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-amino-5-tert-butyl-2-methoxy-phenyl)-amide trihydrochloride
1.59 g tert-butyl [5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-phenyl]-carbamate are dissolved in 15 ml dichloromethane, combined with 10 ml of a 5 M solution of hydrogen chloride in isopropanol and stirred for 3 hours at ambient temperature. Then the solvents are eliminated in vacuo. The product thus obtained is further reacted directly.

reactant | tert-butyl [5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-phenyl]-carbamate | 1.59 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(OC(C)(C)C)=O)OC)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1N(CCC1)C)C | C37H52N6O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-amino-5-tert-butyl-2-methoxy-phenyl)-amide trihydrochloride | Cl.Cl.Cl.NC=1C(=C(C=C(C1)C(C)(C)C)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC | InChI=1S/C32H44N6O3.3ClH/c1-32(2,3)23-18-24(33)29(41-6)25(19-23)34-30(39)27-17-21-9-7-10-22(28(21)36(27)5)20-37-13-15-38(16-14-37)31(40)26-11-8-12-35(26)4;;;/h7,9-10,17-19,26H,8,11-16,20,33H2,1-6H3,(H,34,39);3*1H/t26-;;;/m0.../s1
